US08198279B2
1-(3-Tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-(4-(2,3-dioxo-1,2,3,4-tetrahydropyrido[3,2-b]pyrazin-8-yloxy)-2-fluorophenyl)urea (AA-074)
Method F2 was used with 8-(4-amino-3-fluorophenoxy)pyrido[3,2-b]pyrazine-2,3(1H,4H)-dione and 3-tert-butyl-5-isocyanato-1-p-tolyl-1H-pyrazole to give the title compound as a white solid. Yield: 33 mg (44%).

reactant | 8-(4-amino-3-fluorophenoxy)pyrido[3,2-b]pyrazine-2,3(1H,4H)-dione | NC1=C(C=C(OC2=CC=NC3=C2NC(C(N3)=O)=O)C=C1)F | C13H9FN4O3
reactant | 3-tert-butyl-5-isocyanato-1-p-tolyl-1H-pyrazole | C(C)(C)(C)C1=NN(C(=C1)N=C=O)C1=CC=C(C=C1)C | C15H17N3O
product | 1-(3-Tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-(4-(2,3-dioxo-1,2,3,4-tetrahydropyrido[3,2-b]pyrazin-8-yloxy)-2-fluorophenyl)urea | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=C(C=C(C=C1)OC1=CC=NC2=C1NC(C(N2)=O)=O)F)C2=CC=C(C=C2)C | C28H26FN7O4
